US09119398B2
tert-butyl-3-(dimethylaminomethylene)-2-oxo-4,6a-dihydro-3aH-cyclopenta[b]pyrrole-1-carboxylate III-1
To a solution of tert-butyl 2-oxo-3,3a,4,6a-tetrahydrocyclopenta[b]pyrrole-1-carboxylate IV-1 (500 mg, 2.23 mmol) in toluene (11 mL) was added tert-butoxybis(dimethylamino)methane (1.39 mL, 6.71 mmol) The solution was heated for 2 h at 110° C. It was then cooled to room temperature, poured into water (20 mL), diluted with ethyl acetate (20 mL), and extracted 3 times. The combined organic layers were washed with brine, dried, concentrated and purified by flash chromatography (5% MeOH in CH2Cl2) giving the desired compound as a brown solid (367 mg, 58%); 1H NMR (400 MHz, CDCl3) 7.12 (1H, s), 5.99 (1H, m), 5.85 (1H, m), 4.91 (1H, d), 3.70 (1H, m), 3.03 (6H, s), 2.79 (1H, m), 2.40 (1H, dd), 1.54 (9H, s); LCMS (Method A): 0.83 min; ES+279 (M+H+).

reactant | tert-butyl 2-oxo-3,3a,4,6a-tetrahydrocyclopenta[b]pyrrole-1-carboxylate | O=C1CC2C(N1C(=O)OC(C)(C)C)C=CC2 | C12H17NO3
reactant | tert-butoxybis(dimethylamino)methane | 6.71 mmol, 1.39 mL | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
reactant | water | 20 mL | O | H2O
solvent | toluene | 11 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl-3-(dimethylaminomethylene)-2-oxo-4,6a-dihydro-3aH-cyclopenta[b]pyrrole-1-carboxylate | 367 mg, 58% | C(C)(C)(C)OC(=O)N1C2C(C(C1=O)=CN(C)C)CC=C2 | C15H22N2O3
